US08492559B2
Stage 4: Methyl 2-(bromo-methyl)-4-chloro-1-methyl-1H-indole-3-carboxylate
Methyl 4-chloro-1,2-dimethyl-1H-indole-3-carboxylate (9.70 mmol, 1.0 equiv.) was dissolved in CCl4 (97 ml), and NBS (9.70 mmol, 1.0 equiv.) and benzoyl peroxide (0.19 mmol, 0.02 equiv.) were added. The mixture was heated for 1 h at 85° C. The resulting succinimide was filtered out, the filtrate was concentrated, and the residue was purified by column chromatography (20% ethyl acetate in hexane). Yield: 48%

reactant | Methyl 4-chloro-1,2-dimethyl-1H-indole-3-carboxylate | 9.70 mmol, 1.0 equiv. | ClC1=C2C(=C(N(C2=CC=C1)C)C)C(=O)OC | C12H12ClNO2
reactant | NBS | 9.70 mmol, 1.0 equiv. | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | 0.19 mmol, 0.02 equiv. | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | CCl4 | 97 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | Methyl 2-(bromo-methyl)-4-chloro-1-methyl-1H-indole-3-carboxylate | Yield: 48% | BrCC=1N(C2=CC=CC(=C2C1C(=O)OC)Cl)C | C12H11BrClNO2
